US04652297
N-trifluoroacetyl-N-[bis(sec-butylamino)phosphinothioylmethyl]glycine, butyl ester (4 g, 8.9 mm), was dissolved in ethanol (30 ml) and cooled to 0° C. on an ice bath. The solution was stirred and sodium tetrahydrido boron (339 mg, 8.9 mm) was added portionwise over a ten minute period. The solution was allowed to warm to room temperature and stirred for an additional 45 minutes. The solvent was removed by evaporation under vacuum and the residue was washed with water. The water washings were saturated with sodium chloride and the aqueous layer and insoluble residue were simultaneously extracted with ethyl acetate three times. The combined ethyl acetate extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was then chromatographed on silica gel with 5% diethyl ether in dichloromethane (V:V) to yield N-[bis(sec-butylamino)phosphinothioylmethyl]glycine, butyl ester (750 mg), as a yellow oil, ND25 =1.708 and having the following analysis: Calculated: C, 49.93; H, 9.70; N, 11.65. Found: C, 50.11; H, 9.49; N, 11.60.

reactant | N-trifluoroacetyl-N-[bis(sec-butylamino)phosphinothioylmethyl]glycine, butyl ester | 4 g | FC(C(=O)N(CC(=O)OCCCC)CP(=S)(NC(C)CC)NC(C)CC)(F)F | C17H33F3N3O3PS
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-[bis(sec-butylamino)phosphinothioylmethyl]glycine, butyl ester | 750 mg | C(C)(CC)NP(=S)(NC(C)CC)CNCC(=O)OCCCC | C15H34N3O2PS
